US05162316
7-Ethylamino-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine
In a similar manner to Example 9 reaction of 7-methylthio-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine (0.60 g) and 33% ethylamine in ethanol (20 ml) yielded the title compound, 0.29 g, m.p. 181°-182° C. (recrystallised from ethanol/water and then from ethanol).

reactant | 7-methylthio-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine | 0.60 g | CSC1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C16H16N4O2S
reactant | ethylamine | C(C)N | C2H7N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 7-Ethylamino-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine | C(C)NC1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C17H19N5O2
